US07345068B2
60% Sodium hydride (20 mg, 0.495 mmol) was added to a solution of N-t-butoxycarbonyl-3,5-dimethyl-L-tyrosine methyl ester (160 mg, 0.495 mmol) in dimethyl sulfoxide (2 ml) at 18° C. and the mixture was stirred at the same temperature for 30 minutes. To the mixture was added dropwise a solution of 7-chloromethyl-2-phenylbenzoxazole (241 mg, 0.990 mmol) in dimethyl sulfoxide (3 ml) and the mixture was stirred at room temperature for 90 minutes. The reaction mixture was poured into a mixture of ice water and ethyl acetate and then extracted with ethyl acetate. The extract was washed with water and saturated saline solution in turn and dried. The solvent was distilled off under reduced pressure. The residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=4) to give N-t-butoxycarbonyl-3,5-dimethyl-O-[(2-phenyl)benzoxazol-7-yl]methyl-L-tyrosine methyl ester (185 mg, 70%) as colorless crystals.

reactant | Sodium hydride | 0.495 mmol, 20 mg | [H-].[Na+]
reactant | N-t-butoxycarbonyl-3,5-dimethyl-L-tyrosine methyl ester | 0.495 mmol, 160 mg | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC(=C(C(=C1)C)O)C)=O | C17H25NO5
reactant | 7-chloromethyl-2-phenylbenzoxazole | 0.990 mmol, 241 mg | ClCC1=CC=CC=2N=C(OC21)C2=CC=CC=C2 | C14H10ClNO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
product | N-t-butoxycarbonyl-3,5-dimethyl-O-[(2-phenyl)benzoxazol-7-yl]methyl-L-tyrosine methyl ester | 185 mg, 70% | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC(=C(C(=C1)C)OCC1=CC=CC=2N=C(OC21)C2=CC=CC=C2)C)=O | C31H34N2O6
